US08975254B2
d) N-(2-(3-(3-cyano-4-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-3-(pyridin-2-yl)-1H-pyrazole-5-carboxamide
The title compound was prepared from 5-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile (0.10 g) and 3-(pyridin-2-yl)-1H-pyrazole-5-carboxylic acid (0.077 g) using the method of Example 34(d). Yield 0.21 g. 1H-NMR (400 MHz; d6-DMSO): δ 3.75 (t, 2H), 4.41 (t, 2H), 7.09 (s, 1H), 7.24-7.39 (m, 2H), 7.82-7.91 (m, 3H), 8.37-8.70 (m, 5H), 13.84 (br s, 1H).

reactant | 5-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile | 0.10 g | NCCN1N=C(C=C1)C=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C12H11N5O2
reactant | 3-(pyridin-2-yl)-1H-pyrazole-5-carboxylic acid | 0.077 g | N1=C(C=CC=C1)C1=NNC(=C1)C(=O)O | C9H7N3O2
product | N-(2-(3-(3-cyano-4-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-3-(pyridin-2-yl)-1H-pyrazole-5-carboxamide | C(#N)C=1C=C(C=CC1[N+](=O)[O-])C1=NN(C=C1)CCNC(=O)C1=CC(=NN1)C1=NC=CC=C1 | C21H16N8O3
